US06248755B1
Step A: 1-(4-(Benzothiazol-2-yl)piperidin-1-yl)ethanone
To a mixture of 1.43 g of 1-acetylpiperidine-4-carboxylic acid and 1.05 g of 2-aminothiophenol was added 5 mL of polyphosphoric acid. After stirring at 110° C. for 18 hours, the reaction was cooled to 40° C. The syrup was poured onto ice and water was added to keep the solution temperature below 10° C. The resulting dark brown solution was basified with ammonium hydroxide. Aqueous phase was extracted with EtOAC (3×). The combined organic phases were washed with brine and dried over anhydrous MgSO4. Concentration under reduced pressure afforded 1.41 g of the title compound as a solid.

reactant | 1-acetylpiperidine-4-carboxylic acid | 1.43 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | 2-aminothiophenol | 1.05 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 1-(4-(Benzothiazol-2-yl)piperidin-1-yl)ethanone | 1.41 g | S1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(C)=O | C14H16N2OS
